US08859602B2
g) 4-Cyano-1H-imidazole-2-carboxylic acid {2-(4,4-dimethyl-cyclohex-1-enyl)-4-[4-(2H-tetrazol-5-yl)-tetrahydro-pyran-4-yl]-phenyl}-amide
The title compound was prepared by the procedure of Example 11, step (g) using 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid {2-(4,4-dimethyl-cyclohex-1-enyl)-4-[4-(2H-tetrazol-5-yl)-tetrahydro-pyran-4-yl]-phenyl}-amide (as prepared in the previous step, 51.2 mg, 0.0850 mmol). Silica gel chromatography (1-4% MeOH/DCM) afforded the title compound (17 mg, 43%) as a white solid. 1H-NMR (CD3OD; 400 MHz): δ 8.26 (d, 1H, J=8.6 Hz), 7.90 (s, 1H), 7.22 (dd, 1H, J=8.6, 2.3 Hz), 7.12 (d, 1H, J=2.3 Hz), 5.73 (m, 1H), 3.95 (m, 2H), 3.54 (m, 2H), 2.70 (m, 2H), 2.42 (m, 2H), 2.26 (m, 2H), 2.08 (m, 2H), 1.58 (t, 2H, J=6.3 Hz), 1.09 (s, 6H). Mass spectrum (ESI, m/z): Calcd. for C25H28N8O2, 473.2 (M+H). found 473.2.

reactant | 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid {2-(4,4-dimethyl-cyclohex-1-enyl)-4-[4-(2H-tetrazol-5-yl)-tetrahydro-pyran-4-yl]-phenyl}-amide | CC1(CC=C(CC1)C1=C(C=CC(=C1)C1(CCOCC1)C=1N=NNN1)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C)C | C31H42N8O3Si
solvent | MeOH DCM | CO.C(Cl)Cl
product | 4-Cyano-1H-imidazole-2-carboxylic acid {2-(4,4-dimethyl-cyclohex-1-enyl)-4-[4-(2H-tetrazol-5-yl)-tetrahydro-pyran-4-yl]-phenyl}-amide | 17 mg, 43% | CC1(CC=C(CC1)C1=C(C=CC(=C1)C1(CCOCC1)C=1N=NNN1)NC(=O)C=1NC=C(N1)C#N)C | C25H28N8O2
